US04386091
A mixture of 3-phenoxypropyl bromide (3.01 g., 0.014 mole), 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride (5.4 g., 0.014 mole), pulverized potassium carbonate (5.8 g., 0.042 mole) and a trace of potassium iodide in 50 ml. of acetonitrile is refluxed for a 20 hr. period. The hot reaction mixture is filtered, the filtrate concentrated under reduced pressure and residual material taken up in chloroform and filtered. Solvent is removed and further purification carried out chromatographically employing a silica gel column with ethanol/chloroform eluent. The chromatographically purified material is taken up in ether and acidified with ethanolic hydrogen chloride to provide a solid which is triturated with ethanol to provide 1.6 g. (20% yield) of 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-2-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one dihydrochloride hydrate, m.p. 146°-148° C.

reactant | 3-phenoxypropyl bromide | 0.014 mole, 3.01 g | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride | 0.014 mole, 5.4 g | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(NN=C1CC)=O
reactant | potassium carbonate | 0.042 mole, 5.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-[3-[4-(3-chlorophenyl)-1-piperazinyl]propyl]-5-ethyl-2,4-dihydro-2-(3-phenoxypropyl)-3H-1,2,4-triazol-3-one dihydrochloride hydrate | 20% yield | O.Cl.Cl.ClC=1C=C(C=CC1)N1CCN(CC1)CCCN1C(N(N=C1CC)CCCOC1=CC=CC=C1)=O | InChI=1S/C26H34ClN5O2.2ClH.H2O/c1-2-25-28-32(15-8-20-34-24-11-4-3-5-12-24)26(33)31(25)14-7-13-29-16-18-30(19-17-29)23-10-6-9-22(27)21-23;;;/h3-6,9-12,21H,2,7-8,13-20H2,1H3;2*1H;1H2
